US03985780
An amount of 40.8 g of 2-chloroethyl-trichlorosilane is dissolved in 71.5 g of acetic acid anhydride, and the solution allowed to stand at room temperature for 21 hours in a closed vessel. The reaction product is concentrated in vacuo to obtain 44.6 g of 2-chloro-ethyl-tris-(acetyloxy)-silane, B.P.: 85° - 88° /0.1 Torr, nD20 = 1.6687.

reactant | 2-chloroethyl-trichlorosilane | 40.8 g | ClCC[Si](Cl)(Cl)Cl | C2H4Cl4Si
reactant | acetic acid anhydride | 71.5 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-chloro-ethyl-tris-(acetyloxy)-silane | 44.6 g | ClCC[Si](OC(C)=O)(OC(C)=O)OC(C)=O | C8H13ClO6Si
